US09120780B2
A solution of the colorless oily substance (4-bromo-3-(isopropyl)-1-(4-methoxybenzyl)-1H-indazole) (2.4 g), 3-(1H-imidazol-4-yl)pyridine hydrochloride (1.75 g), copper(I) oxide (96 mg), poly(ethylene glycol) (1.34 g), 8-quinolinol (194 mg), and cesium carbonate (8.7 g) in DMSO (22 mL) was stirred overnight under heating at 125° C. After completion of the reaction, the reaction solution was allowed to standing still for cooling, filtered, and the filtrate was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine and dried by the addition of anhydrous sodium sulfate. After removal of the solvent by evaporation, the residue was purified by neutral silica gel column chromatography (chloroform/ethyl acetate/methanol) to obtain 3-isopropyl-1-(4-methoxybenzyl-4-(4-(pyridin-3-yl)-1H-imidazol-1-yl)-1H-indazole (710 mg, yield 250) as a yellow oily substance.

reactant | 4-bromo-3-(isopropyl)-1-(4-methoxybenzyl)-1H-indazole | BrC1=C2C(=NN(C2=CC=C1)CC1=CC=C(C=C1)OC)C(C)C | C18H19BrN2O
reactant | 3-(1H-imidazol-4-yl)pyridine hydrochloride | 1.75 g | Cl.N1C=NC(=C1)C=1C=NC=CC1
reactant | 8-quinolinol | 194 mg | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | cesium carbonate | 8.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 22 mL | CS(=O)C | C2H6OS
catalyst | copper(I) oxide | 96 mg | [Cu-]=O
product | 4-methoxybenzyl-4-(4-(pyridin-3-yl)-1H-imidazol-1-yl)-1H-indazole | 710 mg | COC1=CC=C(CN2N=CC3=C(C=CC=C23)N2C=NC(=C2)C=2C=NC=CC2)C=C1 | C23H19N5O
